US07220856B2
Preparation of (3S)-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-N-(4-pyridinyl)-1H-azepine-1-acetamide
As described as example 208, (3S)-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-acetic acid, 4-aminopyridine, HATU, and diisopropylethylamine are reacted to afford the product. LC-MS: 551 (M++1). 1H NMR (CD3OD) δ 1.60–1.80 (m, 4H), 1.90 (m, 2H), 3.10 (m, 4H), 3.30 (m, 1H), 3.60 (m, 4H), 4.20 (m, 2H), 4.60 (d, 1H), 6.24 (s, 1H), 7.08 (d, 1H), 7.39 (s, 1H), 7.55 (m, 2H), 7.75 (d, 2H), 8.30 (m, 2H).

reactant | (3S)-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-acetic acid | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(N(CCCC1)CC(=O)O)=O)Cl | C22H27ClN6O4
reactant | 4-aminopyridine | NC1=CC=NC=C1 | C5H6N2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | (3S)-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-N-(4-pyridinyl)-1H-azepine-1-acetamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(N(CCCC1)CC(=O)NC1=CC=NC=C1)=O)Cl | C27H31ClN8O3
